US05728686
Diammonium [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate
3.4 ml (0.026 mol) of trimethylsilyl bromide were slowly added dropwise at 0° C., under an argon atmosphere, to a solution of 4.16 g (0.01 mol) of [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate in 5 ml of dichloromethane. The solution was stirred at 0° C. for 1 hour and at room temperature for 2 hours. The dichloromethane was then evaporated and the oily residue which remained was dried in a bulb tube in an oil pump vacuum to remove excess trimethylsilyl bromide and ethyl bromide formed. The residue was taken up in a little methanol and treated with 1 ml of concentrated ammonia solution and stirred at room temperature for 2 hours. After evaporating the solvent, the diammonium salt was crystallized from a methanoltdiisopropyl ether mixture.

reactant | trimethylsilyl bromide | 0.026 mol, 3.4 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate | 0.01 mol, 4.16 g | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP([O-])([O-])=O)=O)C
reactant | methanol | CO | CH4O
reactant | ammonia | 1 ml | N | H3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Diammonium [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]phosphonate | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP([O-])([O-])=O)=O)C.[NH4+].[NH4+] | InChI=1S/C13H21N4O6P.2H3N/c1-3-23-9-16-8-14-11-10(16)12(18)17(13(19)15(11)2)6-4-5-7-24(20,21)22;;/h8H,3-7,9H2,1-2H3,(H2,20,21,22);2*1H3
